US05554607
3-(5-Chloro-2-methoxyphenyl-1-methyl-2-thioxo-imidazolidin-4-one
A mixture of sarcosine ethyl ester hydrochloride (7.68 g), 5-chloro-2-methoxyphenyl-isothiocyanate (10.0 g), triethylamine (10.0 g) and chloroform (150 mL) was heated at reflux for 4.5 hours. The mixture was cooled to ambient temperature. The precipitated solid was collected, washed with chloroform and air dried to give the title compound (11.8 g) as an off-white solid, m.p. 245°-247° C. Anal. Calcd. for C11H11Cl N2O S: C, 48.80; H, 4.10; N,10.35. Found: C, 48.42; H, 3.96; N, 10.33. Mass spectrum (El, M.+) m/z 270.

reactant | sarcosine ethyl ester hydrochloride | 7.68 g | Cl.C(C)OC(CNC)=O
reactant | 5-chloro-2-methoxyphenyl-isothiocyanate | 10.0 g | ClC=1C=CC(=C(C1)N=C=S)OC | C8H6ClNOS
reactant | triethylamine | 10.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Chloro-2-methoxyphenyl-1-methyl-2-thioxo-imidazolidin-4-one | 11.8 g | ClC=1C=CC(=C(C1)N1C(N(CC1=O)C)=S)OC | C11H11ClN2O2S
